US04125518
Preparation of 2-Nonyl-2,4,4-Trimethyl-Oxazolidine
The procedure of Example 1 was followed utilizing 1,1-dimethylethanolamine (22.3 grams; 0.25 mole) and methyl n-nonylketone (42.6 grams; 0.25 mole) in 250 mls of toluene. After removing the toluene, the residue was distilled to obtain 26.7 grams (44% of theoretical; b.p. 92°-94° C. at 0.3 mm.) of the desired product. This product was prepared for comparison with the compounds of Examples 1-3.

reactant | 1,1-dimethylethanolamine | 0.25 mole, 22.3 grams | CC(C)(CN)O | C4H11NO
reactant | methyl n-nonylketone | 0.25 mole, 42.6 grams | CC(=O)CCCCCCCCC | C11H22O
reactant | toluene | 250 mls | C1(=CC=CC=C1)C | C7H8
product | 2-Nonyl-2,4,4-Trimethyl-Oxazolidine | C(CCCCCCCC)C1(OCC(N1)(C)C)C | C15H31NO
